US04138397
6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, p-(propionyloxy)benzyl ester;
6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, p-(pivaloyloxy)benzyl ester; and 6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, p-(butyryloxy)benzyl ester.

reactant | 6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, p-(pivaloyloxy)benzyl ester | NC1C2SC(C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC(C(C)(C)C)=O)(C)C | C20H26N2O5S
reactant | 6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, p-(butyryloxy)benzyl ester | NC1C2SC(C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC(CCC)=O)(C)C | C19H24N2O5S
product | 6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, p-(propionyloxy)benzyl ester | NC1C2SC(C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC(CC)=O)(C)C | C18H22N2O5S
